US08957104B2
E. (S)-Methyl 2-(dibenzylamino)propanoate
Commercially available (S)-methyl 2-aminopropanoate, hydrochloride (10.0 g, 71.6 mmol) was suspended in DMF (35 mL) and then K2CO3 (31.7 g. 229 mmol) was added followed by benzyl bromide (18.21 mL, 158 mmol). The mixture was left to stir for 38 h at rt. LCMS showed good conversion to the desired product at this time. The reaction was filtered and the solid components were rinsed with EtOAc. The filtrate was then diluted with water and EtOAc and the layers were partitioned. The aqueous portion was extracted with small portions of EtOAc. The combined organic portions were dried over Na2SO4, filtered, and concentrated to a pale yellow, viscous oil. This oil was then chromatographed (ISCO, silica 120 g column, 254 collection, general gradient; hexanes/EtOAc) to afford the desired product (15.76 g, 75%): MS (ESI) m/z 284 (M+H).

reactant | (S)-methyl 2-aminopropanoate, hydrochloride | 71.6 mmol, 10.0 g | Cl.N[C@H](C(=O)OC)C
reactant | K2CO3 | 229 mmol, 31.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 158 mmol, 18.21 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | (S)-Methyl 2-(dibenzylamino)propanoate | C(C1=CC=CC=C1)N([C@H](C(=O)OC)C)CC1=CC=CC=C1 | C18H21NO2
